US04843070
3,4-Difluoroaniline (600 g) and 1410 g of triethylamine were mixed and, with ice cooling and stirring, 389 g of carbon disulfide was dropped in during 2.5 hours. The mixture was stirred at the same temperature for 2 hours more whereupon crystals gradually appeared. The mixture was gradually warmed up to the room temperature, stirred for 2 hours, and kept in a refrigerator for two nights. Chloroform (2 liters) was added to the reaction mixture in which crystals were solidified, the mixture was stirred to make it suspended, and ethyl chloroformate was dropped in at 10° C. (inner temperature) during 2 hours. The mixture was stirred 3.5 hours more at room temperature. After the reaction, the reaction solution was poured over into ice water, the mixture was made weakly acidic with concentrated hydrochloric acid, and the chloroform layer was collected. This was washed with water, dried and concentrated and the residue was purified by a column chromatography (n-hexane/silica gel) to give 558.6 g of 3,4-difluorophenyl isothiocyanate in colorless oil.

reactant | 3,4-Difluoroaniline | 600 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | triethylamine | 1410 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | carbon disulfide | 389 g | C(=S)=S | CS2
solvent | Chloroform | 2 liters | C(Cl)(Cl)Cl | CHCl3
product | 3,4-difluorophenyl isothiocyanate | 558.6 g | FC=1C=C(C=CC1F)N=C=S | C7H3F2NS
